US07947690B2
A mixture of N-(2-nitrobenzenesulfonyl)ethylenediamine, 2-chloroethanesulfonyl chloride, triethylamine, and methylene chloride was stirred at 0° C. for 3 hours to yield N-(2-{[(2-chloroethyl)sulfonyl]amino}ethyl)-2-nitrobenzenesulfonamide. This compound was dissolved in acetonitrile, here were added cesium carbonate and tetrabutylammonium iodide, and the mixture was stirred at 80° C. for 21 hours to yield 5-[(2-nitrophenyl)sulfonyl]-1,2,5-thiadiazepane 1,1-dioxide. This compound was dissolved in acetonitrile, here were added 4-methylbenzenethiol and potassium carbonate, and the mixture was stirred at 50° C. for 21 hours to yield 1,2,5-thiadiazepane 1,1-dioxide.

reactant | N-(2-nitrobenzenesulfonyl)ethylenediamine | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NCCN | C8H11N3O4S
reactant | 2-chloroethanesulfonyl chloride | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(2-{[(2-chloroethyl)sulfonyl]amino}ethyl)-2-nitrobenzenesulfonamide | ClCCS(=O)(=O)NCCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C10H14ClN3O6S2
